US08623859B2
N-[4-(4,5-dihydro-1H-imidazol-2-yl)benzyl]-5-({[(4-methoxy-2,6-dimethylphenyl)sulfonyl](methyl)amino}methyl)-N-methylfuran-3-carboxamide
5-({[(4-Methoxy-2,6-dimethylphenyl)sulfonyl](methyl)amino}methyl)furan-3-carboxylic acid (30 mg, 0.09 mmol) was dissolved in DCE (2 mL) and CDI (30 mg, 0.18 mmol) added. The reaction was stirred at room temperature until complete as determined by LCMS. 1-[4-(4,5-dihydro-1H-imidazol-2-yl)phenyl]-N-methylmethanamine (32 mg, 0.17 mmol) and DIPEA (0.032 mL, 0.18 mmol) was added and the reaction stirred for 3 days at ambient temperature. A further 32 mg 1-[4-(4,5-dihydro-1H-imidazol-2-yl)phenyl]-N-methylmethanamine was added, followed by DMF (0.5 mL) and the reaction was stirred for 18 h. The reaction was washed with saturated aqueous NH4Cl (3×5 mL) and the organic layer dried over MgSO4, shaken with PL-MIA and Ambersep resins, and concentrated. A portion of the crude product was purified using prep method C.

reactant | 5-({[(4-Methoxy-2,6-dimethylphenyl)sulfonyl](methyl)amino}methyl)furan-3-carboxylic acid | 0.09 mmol, 30 mg | COC1=CC(=C(C(=C1)C)S(=O)(=O)N(C)CC1=CC(=CO1)C(=O)O)C | C16H19NO6S
reactant | CDI | 0.18 mmol, 30 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | 1-[4-(4,5-dihydro-1H-imidazol-2-yl)phenyl]-N-methylmethanamine | 0.17 mmol, 32 mg | N1C(=NCC1)C1=CC=C(C=C1)CNC | C11H15N3
reactant | DIPEA | 0.18 mmol, 0.032 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 1-[4-(4,5-dihydro-1H-imidazol-2-yl)phenyl]-N-methylmethanamine | 32 mg | N1C(=NCC1)C1=CC=C(C=C1)CNC | C11H15N3
solvent | DCE | 2 mL | ClCCCl | C2H4Cl2
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
product | N-[4-(4,5-dihydro-1H-imidazol-2-yl)benzyl]-5-({[(4-methoxy-2,6-dimethylphenyl)sulfonyl](methyl)amino}methyl)-N-methylfuran-3-carboxamide | N1C(=NCC1)C1=CC=C(CN(C(=O)C2=COC(=C2)CN(C)S(=O)(=O)C2=C(C=C(C=C2C)OC)C)C)C=C1 | C27H32N4O5S
